US07049313B2
5-Methoxy-9H-thioxanthen-2-ylamine
5-Methoxy-2-nitro 9H-thioxanthene (11.59 g, 42.40 mmol) was suspended in ethyl acetate (250 ml). SnCl2.2H2O (47.84 g, 212 mmol) was added and the clear yellow solution was stirred at 50° C. overnight. The reaction was the quenched with NaOH (2M) and then extracted with ethyl acetate (3×300 ml). The organics were washed with saturated brine (100 ml), dried over magnesium sulphate and the solvents were removed in vacuo to give the title compound (10.32 g, 100%) as viscous yellow oil. The oil was used without further purification. 1HNMR (300 MHz, DMSO-d6): δH=3.83 (3H, s), 3.67 (2H, s), 5.14 (2H, bs), 6.43 (1H, dd), 6.61 (1H, d), 6.89 (1H, d), 6.99 (1H, d), 7.06 (1H, d), 7.18 (1H, t). m/z (LC-MS, ESP), RT=3.88 min, (M++1)=244.

reactant | 5-Methoxy-2-nitro 9H-thioxanthene | 42.40 mmol, 11.59 g | COC1=C2SC=3C=CC(=CC3CC2=CC=C1)[N+](=O)[O-] | C14H11NO3S
reactant | SnCl2.2H2O | 212 mmol, 47.84 g | O.O.Cl[Sn]Cl
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 5-Methoxy-9H-thioxanthen-2-ylamine | 10.32 g, 100% | COC1=C2SC=3C=CC(=CC3CC2=CC=C1)N | C14H13NOS
